* CS amplifier biased using NMOS current mirror
* ID/32768 case, W fixed at ID/128 value

.include tsmc018.lib

.param VDD=1.8
.param ID=0.0152587890625u
.param VD=0.9
.param RDVAL=(VDD-VD)/ID

.param WREF=0.390625u
.param LREF=1u
.param WAMP=0.390625u
.param LAMP=1u

VDD vdd 0 {VDD}

IREF vdd diode {ID}

MREF diode diode 0 0 CMOSN W={WREF} L={LREF}

RD vdd drain {RDVAL}
MAMP drain diode 0 0 CMOSN W={WAMP} L={LAMP}

VIN diode gate_ac AC 1
RAC gate_ac 0 1T

.control

op

print v(diode)
print v(drain)
print @mref[id]
print @mamp[id]
print @mamp[gm]
print @mamp[gds]
print @mamp[vgs]
print @mamp[vds]

let ro = 1/@mamp[gds]
let rd = 58982400
let rout = (ro*rd)/(ro+rd)
let gain = @mamp[gm]*rout

print ro
print rd
print rout
print gain

ac dec 100 1 1G
plot db(v(drain)/v(diode))

.endc

.end